US05807927
85.46 g (0.667 mol) of 5,5-dimethylhydantoin, 110.6 g (0.80 mol) of anhydrous potassium carbonate and 124.0 g (0.7336 mol) of 2-bromoacetaldehyde dimethyl acetal in 600 ml of dimethylformamide are reacted for about 6 hours analogously to Example 1 in a glass apparatus. The reaction mixture is subsequently cooled to room temperature and filtered with suction, the filtrate is evaporated in a rotary evaporator, and the residue is dried at 110° C./0.1 mbar. The crude yield is 143.2 g (99.3% of theory) of 3-(2,2-dimethoxyethyl)-5,5-dimethylimidazolidine-2,4-dione. 21 g of the crude product are dissolved in 50 ml of 0.1N sodium hydroxide solution at room temperature, and the solution is extracted 3 times by shaking with 30 ml of tert-butyl methyl ether in each case in a separating funnel. The organic phases are combined, the solution is dried using anhydrous sodium sulfate and subsequently filtered, the clear filtrate is evaporated in a rotary evaporator, and the residue is dried for 1 hour at 60° C./0.1 mbar, giving 12.3 g of pure, highly viscous 3-(2,2-dimethoxyethyl)-5,5-dimethylimidazolidine-2,4-dione having the following analytical data:

reactant | 5,5-dimethylhydantoin | 0.667 mol, 85.46 g | CC1(C(NC(N1)=O)=O)C | C5H8N2O2
reactant | potassium carbonate | 0.80 mol, 110.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromoacetaldehyde dimethyl acetal | 0.7336 mol, 124.0 g | COC(CBr)OC | C4H9BrO2
solvent | dimethylformamide | 600 ml | CN(C=O)C | C3H7NO
product | 3-(2,2-dimethoxyethyl)-5,5-dimethylimidazolidine-2,4-dione | COC(CN1C(NC(C1=O)(C)C)=O)OC | C9H16N2O4
